US05654316
Beta-(2-methanesulfonyloxyethyl)-N-methyl-N-phenylbenzenepropanamide
Beta-(2-hydroxyethyl)-N-methyl-N-phenylbenzenepropanamide (5.0 g) in CH2Cl2 (100 mL) was cooled to -5° to -10° C. and treated sequentially with Et3N (2.23 g), and methanesulfonyl chloride (2.53 g). After two hours the reaction mixture was washed with water(3×50 mL) and the organic layer separated, dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound (6.4 g).

reactant | Beta-(2-hydroxyethyl)-N-methyl-N-phenylbenzenepropanamide | 5.0 g | OCCC(CC(=O)N(C1=CC=CC=C1)C)C1=CC=CC=C1 | C18H21NO2
reactant | Et3N | 2.23 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.53 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Beta-(2-methanesulfonyloxyethyl)-N-methyl-N-phenylbenzenepropanamide | 6.4 g | CS(=O)(=O)OCCC(CC(=O)N(C1=CC=CC=C1)C)C1=CC=CC=C1 | C19H23NO4S
